US07405210B2
Preparation 113: 2-(S)-tert-Butoxycarbonylamino-3-(4-fluorophenyl)propionic acid tert-butyl ester
To a stirred solution of (S)-N-Boc-4-fluorophenylalanine (2.83 g, 10.0 mmol), DMAP (0.12 g, 1.0 mmol) in DCM (20 mL) and 2-methyl-2-propanol (1.05 mL, 11.0 mmol), was added DCC (2.27 g, 11.0 mmol). The reaction mixture was stirred at rt for 16 h. The reaction mixture was filtered and washed several times with DCM. The filtrate was concentrated in vacuo and chromatographed on silica gel eluting with ethyl acetate:isohexane (1:4) to give the title compound. δH (CDCl3): 1.39 (9H, s), 1.41 (9H, s), 3.01 (2H, m), 4.41 (1H, m), 4.98 (1H, m), 6.95 (2H, m), 7.12 (2H, m).

reactant | (S)-N-Boc-4-fluorophenylalanine | 10.0 mmol, 2.83 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)F)C(=O)O | C14H18FNO4
reactant | 2-methyl-2-propanol | 11.0 mmol, 1.05 mL | CC(C)(C)O | C4H10O
reactant | DCC | 11.0 mmol, 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1.0 mmol, 0.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(S)-tert-Butoxycarbonylamino-3-(4-fluorophenyl)propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C18H26FNO4
